US04977149
(±)-trans-2-Chloro-6-propyl-5,5a,6,7,8,9,9a,10-octahydropyrido[2,3-g]quinoline hydrochloride
Phosphorus oxychloride (272 g, 165 mL, 175 mol) was added over 6 hours to a solution of (±)-trans-2-oxo-6-propyl-1,2,5,5a,6,7,8,9,9a,10-decahydropyrido-[ 2,3-g]quinoline (5.75 g, 23.4 mMol) in dimethylformamide (250 mL) at 135° C. The reaction was stirred at 135° C. for 17 hours, poured over ice, and made basic with NH4OH and extracted with methylene chloride. The extract was dried (Na2SO4) and concentrated to give the crude product as a brown oil. Purification by flash chromatography (5% methanol in methylene chloride, 0.5% NH4OH) gave the desired product as a brown oil (5.6 g, 90% yield).

reactant | Phosphorus oxychloride | 175 mol, 165 mL, 272 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | (±)-trans-2-oxo-6-propyl-1,2,5,5a,6,7,8,9,9a,10-decahydropyrido-[ 2,3-g]quinoline | 23.4 mMol, 5.75 g | O=C1C=CC2=C(C[C@@H]3CCCN([C@H]3C2)CCC)N1 | C15H22N2O
reactant | NH4OH | [NH4+].[OH-]
solvent | dimethylformamide | 250 mL | CN(C=O)C | C3H7NO
product | (±)-trans-2-Chloro-6-propyl-5,5a,6,7,8,9,9a,10-octahydropyrido[2,3-g]quinoline hydrochloride | 5.6 g, 90% yield | Cl.ClC=1C=CC2=C(C[C@@H]3CCCN([C@H]3C2)CCC)N1 | InChI=1S/C15H21ClN2.ClH/c1-2-7-18-8-3-4-12-9-13-11(10-14(12)18)5-6-15(16)17-13;/h5-6,12,14H,2-4,7-10H2,1H3;1H/t12-,14-;/m0./s1
